'
* LC resonance
R1 ( 1 2 )  1Meg
L1 ( 2 0 )  0.001
C1 ( 2 0 )  10n
V1 ( 1 0 )  AC  1

.width out=140
.option rstray
.plot ac v 4 v 2
.ac 50.1k 50.5k 10

